US04895945
Synthesis of 2-chloro-4,6-diglycidoxy-1,3,5-triazine
To a mechanically stirred solution of 220.8 g (1.2 mol) cyanuric chloride in 1500 ml chloroform, cooled to 0°-10° C., was added 266.4 g (3.6 mol) 2,3-epoxy-1-propanol in one portion. Aqueous sodium hydroxide (50% solution; 192 g) was added to the mixture dropwise with stirring over about 3 hr maintaining the reaction temperature below 10° C. and preferably around 0°-5° C. The reaction mixture was allowed to warm slowly to room temperature. The chloroform layer was washed with distilled water until neutral and dried over magnesium sulfate. The reaction product was found by nuclear magnetic resonance to be 2-chloro-4,6-diglycidoxy-1,3,5-triazine. Analysis showed about 95% (by weight) chlorodiglycidoxytriazine. The reaction mixture also was found to contain small amounts of triglycidoxytriazine and dichloro monoglycidoxytriazine.

reactant | cyanuric chloride | 1.2 mol, 220.8 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | 2,3-epoxy-1-propanol | 3.6 mol, 266.4 g | O1C(CO)C1 | C3H6O2
reactant | sodium hydroxide | 192 g | [OH-].[Na+]
solvent | chloroform | 1500 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-chloro-4,6-diglycidoxy-1,3,5-triazine | ClC1=NC(=NC(=N1)OCC1CO1)OCC1CO1 | C9H10ClN3O4
